US05430169
n-butyllithium in solution in hexanes is added in a dropwise manner to a solution of 3-trimethylsilyl benzylidenamine in solution in THF. After 30 min. of stirring at -70° C., palmitoyl chloride (1 eq.) in solution in THF is added thereto. The solution is stirred at -70° C. for 30 min., and lithium diisopropylamine (1 eq.) in solution in hexanes is added in a dropwise manner. After 20 min. of stirring at -70° C., a solution of methyl chloroformate in tetrahydrofuran is added thereto. The solution is stirred at -70° C. for 20 min. and poured into diethylether. The solution is then washed with water and brine, dried over sodium sulfate, and concentrated to yield palmitoyl propargylamine benzylidenamine.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-trimethylsilyl benzylidenamine | C[Si](C=1C=C(C=N)C=CC1)(C)C | C10H15NSi
reactant | palmitoyl chloride | 1 eq. | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | lithium diisopropylamine | 1 eq. | C(C)(C)NC(C)C.[Li]
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | palmitoyl propargylamine benzylidenamine | C(C1=CC=CC=C1)=N.C(CCCCCCCCCCCCCCC)(=O)NCC#C | InChI=1S/C19H35NO.C7H7N/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-19(21)20-18-4-2;8-6-7-4-2-1-3-5-7/h2H,3,5-18H2,1H3,(H,20,21);1-6,8H
